US05240957
(S)-(+)-N-[(1-Ethyl-2-pyrrolidinyl)methyl]-2-amino-3-bromo-5,6-dimethoxybenzamide (Method A)
To a solution of 2-amino-3-bromo-5,6-dimethoxybenzoic acid (0.96 g, 3 mmol) and triethylamine (0.58 ml, 4.2 mmol) in 15 ml tetrahydrofuran/ /dichloromethane (1:1) was added ethyl chloroformate (0.32 ml, 3.4 mmol) at -20° C. After stirring for 45 min. at -20° C. a solution of (2S)-(-)-1-ethyl-2-aminomethylpyrrolidine in 10 ml dichloromethane was added at -20° C. After stirring for 3 h at room temperature the mixture was washed with water and extracted with 0.5M HCl. The aqueous phase was made alkaline and extracted twice with dichloromethane. Drying (Na2SO4) and evaporation gave 0.45 g crude material which was purified by chromatography on a C18 reversed phase column with H2O/MeOH/NH3 40:60:0.3 as eluent to give 0.25 g (22%) pure product as an oil.

reactant | 2-amino-3-bromo-5,6-dimethoxybenzoic acid | 3 mmol, 0.96 g | NC1=C(C(=O)O)C(=C(C=C1Br)OC)OC | C9H10BrNO4
reactant | triethylamine | 4.2 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.4 mmol, 0.32 ml | ClC(=O)OCC | C3H5ClO2
reactant | (2S)-(-)-1-ethyl-2-aminomethylpyrrolidine | C(C)N1[C@@H](CCC1)CN | C7H16N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-(+)-N-[(1-Ethyl-2-pyrrolidinyl)methyl]-2-amino-3-bromo-5,6-dimethoxybenzamide | 0.25 g, 22% | C(C)N1[C@@H](CCC1)CNC(C1=C(C(=CC(=C1OC)OC)Br)N)=O | C16H24BrN3O3
